US08563779B2
Step 2: Synthesis of 4-oxobicyclo[3.2.1]oct-2-en-2-yl 2-methyl-3-methylsulfinyl-4-trifluoromethylbenzoat
250 mg (0.94 mmol) of 2-methyl-3-(methylsulfinyl)-4-(trifluoromethyl)benzoic acid were introduced into 25 ml of dry dichloromethane. Thereafter 143 mg (1.03 mmol) of bicyclo[3.2.1]octane-2,4-dione and subsequently, in portions, 216 mg (1.13 mmol) of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride were added. The mixture was stirred at room temperature for 16 hours and then admixed with 5 ml of 1M hydrochloric acid. Following phase separation, the organic phase was freed from the solvent on a rotary evaporator. The residue was purified by chromatography, with 170 mg of clean product being isolated.

reactant | 2-methyl-3-(methylsulfinyl)-4-(trifluoromethyl)benzoic acid | 0.94 mmol, 250 mg | CC1=C(C(=O)O)C=CC(=C1S(=O)C)C(F)(F)F | C10H9F3O3S
reactant | bicyclo[3.2.1]octane-2,4-dione | 1.03 mmol, 143 mg | C12C(CC(C(CC1)C2)=O)=O | C8H10O2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.13 mmol, 216 mg | Cl.CN(CCCN=C=NCC)C
reactant | hydrochloric acid | 1M, 5 ml | Cl | ClH
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 4-oxobicyclo[3.2.1]oct-2-en-2-yl 2-methyl-3-methylsulfinyl-4-trifluoromethylbenzoat | CC1=C(C(=O)OC=2C3CCC(C(C2)=O)C3)C=CC(=C1S(=O)C)C(F)(F)F | C18H17F3O4S
